US09102591B2
2-Chloro-N-[2-(6-cyclopropyl-3-pyridyl)-3-[1-(trifluoromethyl)cyclopropyl]propyl]benzamide
From 2-chlorobenzoic acid and 2-(6-cyclopropyl-pyridin-3-yl)-3-(1-trifluoromethyl-cyclopropyl)-propylamine. LCMS (MH+): m/z=423.1, tR (minutes, Method G)=2.04

reactant | 2-chlorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1 | C7H5ClO2
reactant | 2-(6-cyclopropyl-pyridin-3-yl)-3-(1-trifluoromethyl-cyclopropyl)-propylamine | C1(CC1)C1=CC=C(C=N1)C(CN)CC1(CC1)C(F)(F)F | C15H19F3N2
product | 2-Chloro-N-[2-(6-cyclopropyl-3-pyridyl)-3-[1-(trifluoromethyl)cyclopropyl]propyl]benzamide | ClC1=C(C(=O)NCC(CC2(CC2)C(F)(F)F)C=2C=NC(=CC2)C2CC2)C=CC=C1 | C22H22ClF3N2O
